US04657919
5-(N-imidazolyl-carbonyl)-3-cyano-6-methyl-2-pyridone (29):
To 0.20 g (1.1 mmol) of 11 in 10 ml DMF was added carbonyldiimidazole (0.223 g, 1.4 mmol). The solution was stirred for 24 hours at room temperature. Dimethylformamide was stripped off under reduced pressure giving an oil which crystallized upon further drying. The solid was washed with water and dried in the vacuum dessicator. Yellow solids were obtained: 0.11 g, 40% yield; mp=237°-238° C. with decomposition; NMR (DMSO-d6) δ 2.5 (s, 3H), 7.2 (d, 1H), 7.8 (d, 1H), 8.4 (2s, 2H); IR (KRr) 1670 cm-1 (C=O of pyridone), 1710 cm-1 (C=O of imidazolide).

reactant | carbonyldiimidazole | 1.4 mmol, 0.223 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyridone | N1C(C=CC=C1)=O | C5H5NO
reactant | imidazolide | [N-]1C=NC=C1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(N-imidazolyl-carbonyl)-3-cyano-6-methyl-2-pyridone | 40% yield | N1(C=NC=C1)C(=O)C=1C=C(C(NC1C)=O)C#N | C11H8N4O2
